US09120819B2
Stage A: Diethyl 2,2′-[(5-methoxy-1,3-phenylene)-bis(oxy)]diacetate
5.0 g (35.7 mmol) of 5-methoxybenzene-1,3-diol and then, after 10 minutes, 8.7 ml (78.5 mmol) of ethyl 2-bromoacetate are added to the suspension of 3.1 g (71.4 mmol) of sodium hydride (60% dispersion in oil) in 180 ml of 1-methyl-2-pyrrolidinone under argon. The mixture is stirred at ambient temperature for 3 hours. The reaction medium is diluted with ethyl acetate and washed with a saturated aqueous solution of potassium hydrogen sulphate and a saturated solution of sodium chloride and dried over sodium sulphate then concentrated to dryness. The crude product is purified by chromatography on silica gel (dichloromethane/ethyl acetate=95/5). 5.9 g (53%) of a colourless gum are obtained.

reactant | 5-methoxybenzene-1,3-diol | 35.7 mmol, 5.0 g | COC=1C=C(C=C(C1)O)O | C7H8O3
reactant | ethyl 2-bromoacetate | 78.5 mmol, 8.7 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | 71.4 mmol, 3.1 g | [H-].[Na+]
solvent | 1-methyl-2-pyrrolidinone | 180 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Diethyl 2,2′-[(5-methoxy-1,3-phenylene)-bis(oxy)]diacetate | 5.9 g, 53% | COC=1C=C(C=C(C1)OCC(=O)OCC)OCC(=O)OCC | C15H20O7
